US06184225B2
6-Methoxy-7-(2-methoxyethoxy)-3,4-dihydroquinazolin-4-one (200 mg, 0.8 mmol), (prepared as described for the starting material in Example 9), and DMF (0.1 ml) in thionyl chloride (20 ml) were heated at reflux for 2 hours. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene. The residue was dissolved in isopropranol (15 ml), 2,4-difluoro-5-hydroxyaniline (128 mg, 0.88 mmol), (prepared as described for the starting material in Example 11), added, and the mixture heated at reflux for 2 hours. The reaction mixture was then allowed to cool, the precipitated product collected by filtration, washed with isopropanol and dried to give 4-(2,4-difluoro-5-hydroxyanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (83 mg, 28%).

reactant | 6-Methoxy-7-(2-methoxyethoxy)-3,4-dihydroquinazolin-4-one | 0.8 mmol, 200 mg | COC=1C=C2C(NC=NC2=CC1OCCOC)=O | C12H14N2O4
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | 2,4-difluoro-5-hydroxyaniline | 0.88 mmol, 128 mg | FC1=C(N)C=C(C(=C1)F)O | C6H5F2NO
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(2,4-difluoro-5-hydroxyanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 83 mg, 28% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=C(C(=C1)F)O | InChI=1S/C18H17F2N3O4.ClH/c1-25-3-4-27-17-8-13-10(5-16(17)26-2)18(22-9-21-13)23-14-7-15(24)12(20)6-11(14)19;/h5-9,24H,3-4H2,1-2H3,(H,21,22,23);1H
